* source ZAS
C_C4         N16338 0  100u  
C_C         0 N16833  47n  
C_C2         0 N16338  100n  
Q_Q1         N17970 N18508 0 BC107A 
C_C1         N18508 TRIG  1n  
V_V2         TRIG 0  
+PULSE 5 0 1m 1n 1n 100u 1000u
C_C3         N16918 0  1u  
R_Ra         N17414 N16338  760  
R_Rb         N16833 N17414  1p  
V_Vcc         N16338 0 5Vdc
R_R3         N17970 N16338  1k  
D_D1         0 N18508 D1N3064 
R_R2         0 N18508  1k  
X_U1         0 N17970 out N16338 N16918 N17414 N16833 N16338 555B
